US07045551B2
Step C: (3R,2S)-3-Amino-3-naphthalen-2-yl-propane-1.2-diol
A solution of TFA (5 mL) and (1R,2S)-(2,3-dihydroxy-1-naphthalen-2-yl-propyl)-carbamic acid tert-butyl ester (1.72 g) in methylene chloride (15 mL) was stirred for 2 h. After concentration, the residue was neutralized with 10 N NaOH and extracted with methylene chloride. The combined organic layer was washed with brine, dried over Na2SO4, and concentrated in vacuo to give the title compound as a solid (1.1 g).

reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (1R,2S)-(2,3-dihydroxy-1-naphthalen-2-yl-propyl)-carbamic acid tert-butyl ester | 1.72 g | C(C)(C)(C)OC(N[C@@H]([C@@H](CO)O)C1=CC2=CC=CC=C2C=C1)=O | C18H23NO4
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | (3R,2S)-3-Amino-3-naphthalen-2-yl-propane-1.2-diol | 1.1 g | N[C@@H]([C@@H](CO)O)C1=CC2=CC=CC=C2C=C1 | C13H15NO2
